US04588719
4-(3-Aminopropoxy)-1-piperidinylindan
A solution of the azido indan ((38 g) (of Step 7 above) in ether (250 ml) is added over a period of 30 min to a suspension of LAH in anhydrous ether (1.5 l) stirred under nitrogen. The mixture is refluxed for about 1.5 hours then cooled and 6 ml H2O added. Aqueous NaOH (15% solution, 6 ml) is added followed by H2O (18 ml) and stirring continued for about 1.5 hours. The reaction mixture is filtered, the solid washed with ether and the filtrate dried over Na2SO4, filtered and concentrated in vacuo. The residue is dissolved in methylene chloride, dried, filtered and evaporated yielding the desired product as an oil.

reactant | azido indan | N(=[N+]=[N-])C1CCC2=CC=CC=C12 | C9H9N3
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 6 ml | O | H2O
reactant | NaOH | 6 ml | [OH-].[Na+]
reactant | H2O | 18 ml | O | H2O
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | ether | 1.5 l | CCOCC | C4H10O
product | 4-(3-Aminopropoxy)-1-piperidinylindan | NCCCOC1=C2CCC(C2=CC=C1)N1CCCCC1 | C17H26N2O
